* Test DC mode support for ERROR Measure
*
* This bug covers the case of one variable (vsrc1) on 
* the .DC line, with one variable (vsrc2) in the
* .STEP statement.
*
* See SON Bug 888 for more details.
******************************************************** 

* Note: the comparison files (RawData) for this test are the
* same as the onex used for the test MEASURE/ErrorTest1DC

vsrc1   1a 0 1
rload1a 1a 1b 0.12
rload1b 1b 0 1

vsrc2   2a 0 1
rload2a 2a 1b 0.2

.DC vsrc1 1 5 1
.STEP VSRC2 2 5 3
.print dc vsrc1:DCV0 vsrc2:DCV0 RLOAD1A:R v(1a) v(2a) v(1b)  

*Test with FILE= in .PRN format.  All three norms
.measure dc FitErrorInfPrn error v(1b) file=ErrorTest1DCRawData.prn comp_function=infnorm indepvarcol=1 depvarcol=5
.measure dc FitErrorL1Prn error v(1b) file=ErrorTest1DCRawData.prn comp_function=l1norm indepvarcol=1 depvarcol=5
.measure dc FitErrorL2Prn error v(1b) file=ErrorTest1DCRawData.prn comp_function=l2norm indepvarcol=1 depvarcol=5

*Test with FILE= in .CSD format.
.measure dc FitErrorInfcsd error v(1b) file=ErrorTest1DCRawData.csd comp_function=INFNORM indepvarcol=0 depvarcol=5
.measure dc FitErrorL1csd error v(1b) file=ErrorTest1DCRawData.csd comp_function=L1NORM indepvarcol=0 depvarcol=5
.measure dc FitErrorL2csd error v(1b) file=ErrorTest1DCRawData.csd comp_function=L2NORM indepvarcol=0 depvarcol=5

*Test with FILE= in .CSV format.
.measure dc FitErrorInfcsv error v(1b) file=ErrorTest1DCRawData.csv comp_function=INFNORM indepvarcol=0 depvarcol=4
.measure dc FitErrorL1csv error v(1b) file=ErrorTest1DCRawData.csv comp_function=L1NORM indepvarcol=0 depvarcol=4
.measure dc FitErrorL2csv error v(1b) file=ErrorTest1DCRawData.csv comp_function=L2NORM indepvarcol=0 depvarcol=4

* Test with FILE= in Comma-Delimited .PRN format
.measure dc FitErrorInfCDPrn error v(1b) file=ErrorTest1DCCommaDelimRawData.prn comp_function=infnorm indepvarcol=1 depvarcol=5
.measure dc FitErrorL1CDPrn error v(1b) file=ErrorTest1DCCommaDelimRawData.prn comp_function=l1norm indepvarcol=1 depvarcol=5
.measure dc FitErrorL2CDPrn error v(1b) file=ErrorTest1DCCommaDelimRawData.prn comp_function=l2norm indepvarcol=1 depvarcol=5

* Signifies end of test. .sh file looks for a measure named lastMeasure.  
* This is needed for compatibility for testing with a verbose build, which 
* is often used by the Xyce developers.
.measure dc lastMeasure max v(1b) 

.end


