* Test NOISE mode support for the ERR, ERR1 and ERR2 measures. It was
* deemed sufficient to mostly just test with the VR and VI operators.
* Expressions are also tested. One current operator (IM) is tested
* for a branch current.
*
* See SON Bug 1301 for more details.
********************************************************************

.GLOBAL_PARAM P1=-1.5

* RESISTOR DIVIDER
V1  1 0 DC 5.0 AC  1.0
R1  1 2 100K
R2  2 0 100K
*
* AMP AND LP FILTER
EAMP  3 0 2 0 1
RLP1  3 4 50
RLP2  4 5 50
CLP1  5 0 1.59NF

.NOISE  V(4)  V1  DEC  5 100 1MEG
.STEP RLP1 50 100 50

.PRINT NOISE ERR1 VR(4) VI(4) VR(5) VI(5) IM(EAMP) INOISE ONOISE

* ERR and ERR1
.MEASURE NOISE ERR  ERR  vr(4) vr(5)
.meas    noise err1 err1 vr(4) vr(5)
.MEASURE NOISE ERR1MV0.1 ERR1 VR(4) VR(5) MINVAL=0.4
.MEASURE NOISE ERR1YMIN0.3 ERR1 VR(4) VR(5) YMIN=0.45
.MEASURE NOISE ERR1IGNOR0.3 ERR1 VR(4) VR(5) IGNOR=0.45
.MEASURE NOISE ERR1YMAX0.7 ERR1 VR(4) VR(5) YMAX=0.495
.MEASURE NOISE ERR1EXP ERR1 {VR(4)+1} {VR(5)+1}

* ERR2
.MEASURE NOISE ERR2 ERR2 vr(4) vr(5)
.MEASURE NOISE ERR2MV0.1 ERR2 VR(4) VR(5) MINVAL=0.4
.MEASURE NOISE ERR2YMIN0.3 ERR2 VR(4) VR(5) YMIN=0.45
.MEASURE NOISE ERR2IGNORE0.3 ERR2 VR(4) VR(5) IGNORE=0.45
.MEASURE NOISE ERR2YMAX0.7 ERR2 VR(4) VR(5) YMAX=0.495
.MEASURE NOISE ERR2EXP ERR2 {VR(4)+1} {VR(5)+1}

* test VI() operator, for ERR1 only
.MEASURE NOISE ERR1VI ERR1 vi(4) vi(5)

* FROM-TO
.MEASURE NOISE ERR1FT ERR1 vr(4) vr(5) FROM=1e3 TO=1e5

* Branch current
.MEASURE NOISE ERR1IM ERR1 IM(eamp) {vi(5)/1000}

* Tests should fail since the FROM-T0 windows have various problems.
.measure noise err1Fail err1 vr(4) vr(5) FROM=1e7 TO=1e8
.measure noise err2fail err2 vr(4) vr(5) FROM=1e6 TO=1e2

* Signifies end of test. .sh file looks for a measure named lastMeasure.
* This is needed for compatibility for testing with a verbose build, which
* is often used by the Xyce developers.
.measure noise lastMeasure max vm(4)

.END
