* Test NOISE mode support for MAX, MIN and PP measures. It was
* deemed sufficient to mostly just test with the VR and VI
* operators for each measure type.  Expressions are also
* tested. One current operator (IM) is tested for a branch
* current.
*
* See SON Bug 1301 for more details.
*************************************************************

* RESISTOR DIVIDER
V1  1 0 DC 5.0 AC  1.0
R1  1 2 100K
R2  2 0 100K
*
* AMP AND LP FILTER
EAMP  3 0 2 0 1
RLP1  3 4 100
CLP1  4 0 1.59NF

.NOISE  V(4)  V1  DEC  5 100 1MEG
.STEP RLP1 100 200 100

.PRINT NOISE VR(4) VI(4) IM(EAMP) maxvr4 minvr4 ppvr4 INOISE ONOISE

* MAX
.MEASURE NOISE maxvr4 MAX vr(4)
.meas    noise maxvi4 max vi(4)

* MIN
.MEASURE NOISE minvr4 MIN vr(4)
.MEASURE NOISE minvi4 min vi(4)

* PP
.MEASURE NOISE ppvr4 PP vr(4)
.MEASURE NOISE ppvi4 pp vi(4)

* Use expressions
.MEASURE NOISE maxvr4Exp max {1+vr(4)}
.MEASURE NOISE maxvi4Exp max {1+vi(4)}

* add FROM-TO
.MEASURE NOISE maxvr4FromTo max vr(4) FROM=1e3 TO=1e5
.MEASURE NOISE minvr4FromTo min vr(4) FROM=1e3 TO=1e5
.MEASURE NOISE ppvr4FromTo pp vr(4) FROM=1e3 TO=1e5

* branch currents
.MEASURE NOISE maximeamp max IM(EAMP)
.MEASURE NOISE minimeamp min IM(EAMP)  FROM=1e5
.MEASURE NOISE ppimeamp  pp  IM(EAMP)  FROM=1e5

* Tests should fail since the FROM-T0 windows have various problems.
.measure noise maxFromToFail1 max v(4) FROM=1e7 TO=1e8
.measure noise maxFromToFail2 max vr(4) FROM=1e6 TO=1e2
.measure noise minFromToFail1 min vi(4) TO=-1e6
.measure noise minFromToFail2 min vm(4) FROM=1e7 TO=1e8
.measure noise ppFromToFail1 pp vp(4) FROM=1e7 TO=1e8

* Signifies end of test. .sh file looks for a measure named lastMeasure.
* This is needed for compatibility for testing with a verbose build, which
* is often used by the Xyce developers.
.measure noise lastMeasure max vm(4)

.END
